US04761501
1-[Cyano(-methoxyphenyl)methyl]cyclohexanol
p-Methoxyphenylacetonitrile (50 gm, 0.3 mole) was added to dry tetrahydrofuran (250 ml) and the solution cooled to -70° C. under nitrogen. n-Butyl lithium in hexane 210 ml, 0.3 mole) was added dropwise, with stirring. The temperature was maintained below -50° C. and a yellow precipitate appeared. After the addition was complete, the reaction mixture was maintained below -50° C. for 30 minutes and cyclohexanone (35 ml, 0.3 mole) was added. After a further 45 minutes below -50° C. the temperature was allowed to rise to 0° C. and a saturaged ammonium chloride solution was added. The layers were separated and the aqueous layer extracted with diethyl ether. The combined organic solution was washed with brine, dried over magnesium sulphate and evaporated. The product crystallized (25.2 gm, m.p. 125°-127° C.).

reactant | p-Methoxyphenylacetonitrile | 0.3 mole, 50 gm | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | hexane | 0.3 mole, 210 ml | CCCCCC | C6H14
reactant | cyclohexanone | 0.3 mole, 35 ml | C1(CCCCC1)=O | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-[Cyano(-methoxyphenyl)methyl]cyclohexanol | C(#N)C(C1(CCCCC1)O)C1=C(C=CC=C1)OC | C15H19NO2
